data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
1209,1316,[CH3:11][O:12][C:13](=[O:14])[C:15]#[N+:16][C-:17]([CH3:18])[C:19]([CH3:20])=[O:21].[CH3:1][O:2][C:3]1=[C:4]([Br:5])[CH:6]2[CH2:7][CH2:8][CH:9]1[CH2:10]2>>[CH3:1][O:2][C:3]12[C:4]([Br:5])([CH:6]3[CH2:7][CH2:8][CH:9]1[CH2:10]3)[C:17]([CH3:18])([C:19]([CH3:20])=[O:21])[N:16]=[C:15]2[C:13]([O:12][CH3:11])=[O:14],water,298.15,19.115854296441285,-33.09478318393716
4266,4880,[CH3:1]/[CH:2]=[CH:3]\[CH3:4].[CH3:5][NH:6][C:7](=[O:8])[C:9](=[NH+:10][CH-:11][c:12]1[cH:13][cH:14][cH:15][cH:16][cH:17]1)[c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1>>[CH3:1][C@@H:2]1[C@H:3]([CH3:4])[CH:11]([c:12]2[cH:13][cH:14][cH:15][cH:16][cH:17]2)[NH:10][C:9]1([C:7]([NH:6][CH3:5])=[O:8])[c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1,water,298.15,24.383428068545168,-16.888001603402042
1147,1246,[CH3:14][N-:15][N+:16]#[C:17][C:18](=[O:19])[O:20][CH3:21].[CH3:1][C:2]1([CH3:3])[C:4]#[C:5][C:6]([Br:7])([C:8]#[N:9])[CH2:10][CH2:11][CH2:12][CH2:13]1>>[CH3:1][C:2]1([CH3:3])[c:4]2[c:5]([n:15]([CH3:14])[n:16][c:17]2[C:18](=[O:19])[O:20][CH3:21])[C:6]([Br:7])([C:8]#[N:9])[CH2:10][CH2:11][CH2:12][CH2:13]1,water,298.15,12.69768637579233,-75.83502701119853
202,219,[CH2:1]=[CH:2][C:3]([CH3:4])=[O:5].[N:6]#[C:7][c:8]1[o:9][c:10](=[O:11])[c-:12](-[c:13]2[cH:14][cH:15][cH:16][cH:17][cH:18]2)[o+:19]1>>[CH2:1]1[CH:2]([C:3]([CH3:4])=[O:5])[C:8]2([C:7]#[N:6])[O:9][C:10](=[O:11])[C:12]1([c:13]1[cH:14][cH:15][cH:16][cH:17][cH:18]1)[O:19]2,water,298.15,10.688502443623875,-28.22575925303712
1415,1557,[CH3:11][O:12][C:13](=[O:14])[N-:15][N+:16]([CH3:17])=[C:18]([C:19]#[N:20])[c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1.[N:1]#[C:2][C:3]1=[C:4]([Cl:5])[CH:6]2[CH2:7][CH2:8][CH:9]1[CH2:10]2>>[N:1]#[C:2][C:3]12[C:4]([Cl:5])([CH:6]3[CH2:7][CH2:8][CH:9]1[CH2:10]3)[N:15]([C:13]([O:12][CH3:11])=[O:14])[N:16]([CH3:17])[C:18]2([C:19]#[N:20])[c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1,water,298.15,21.603111472286383,-8.130926296372799
3740,4278,[CH3:1]/[CH:2]=[CH:3]/[CH3:4].[CH3:5][O:6][C:7](=[O:8])[C-:9]([N+:10]#[C:11][C:12]([CH3:13])=[O:14])[c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1>>[CH3:1][C@H:2]1[C@H:3]([CH3:4])[C:9]([C:7]([O:6][CH3:5])=[O:8])([c:15]2[cH:16][cH:17][cH:18][cH:19][cH:20]2)[N:10]=[C:11]1[C:12]([CH3:13])=[O:14],water,298.15,17.581675679729813,-35.830437116038084
1405,1546,[CH3:1][NH:2][C:3](=[O:4])[C:5]1([F:6])[C:7]#[C:8][C:9]([C:10]([CH3:11])=[O:12])([C:13]([CH3:14])=[O:15])[CH2:16][CH2:17][CH2:18][CH2:19]1.[CH3:20][c:21]1[nH+:22][n-:23][c:24](=[O:25])[o:26]1>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1([F:6])[C:7]2=[C:8]([C:9]([C:10]([CH3:11])=[O:12])([C:13]([CH3:14])=[O:15])[CH2:16][CH2:17][CH2:18][CH2:19]1)[N:23]1[NH:22][C:21]2([CH3:20])[O:26][C:24]1=[O:25],water,298.15,38.77034621357125,6.903073203560145
4564,5209,[CH3:9][C:10]([CH3:11])=[NH+:12][C-:13]([c:14]1[cH:15][cH:16][cH:17][cH:18][cH:19]1)[c:20]1[cH:21][cH:22][cH:23][cH:24][cH:25]1.[O-:1][C:2](=[O:3])/[CH:4]=[CH:5]/[C:6](=[O:7])[O-:8]>>[O-:1][C:2](=[O:3])[C@H:4]1[C@H:5]([C:6](=[O:7])[O-:8])[C:13]([c:14]2[cH:15][cH:16][cH:17][cH:18][cH:19]2)([c:20]2[cH:21][cH:22][cH:23][cH:24][cH:25]2)[NH:12][C:10]1([CH3:9])[CH3:11],water,298.15,14.80477052027013,-22.59351874538766
3467,3948,[CH3:1][C:2]([CH3:3])=[C:4]([CH3:5])[CH3:6].[CH3:7][NH:8][C:9](=[O:10])[C:11]#[N+:12][C-:13]([C:14]#[N:15])[C:16]([CH3:17])=[O:18]>>[CH3:1][C:2]1([CH3:3])[C:4]([CH3:5])([CH3:6])[C:13]([C:14]#[N:15])([C:16]([CH3:17])=[O:18])[N:12]=[C:11]1[C:9]([NH:8][CH3:7])=[O:10],water,298.15,16.66444012721287,-31.590314997810392
689,749,[CH3:8][O:9][C:10](=[O:11])[c-:12]1[nH+:13][c:14](-[c:15]2[cH:16][cH:17][cH:18][cH:19][cH:20]2)[o:21][c:22]1=[O:23].[CH:1]1=[CH:2][CH:3]2[CH2:4][CH2:5][CH:6]1[CH2:7]2>>[CH:1]12[CH:2]([CH:3]3[CH2:4][CH2:5][CH:6]1[CH2:7]3)[C:12]1([C:10]([O:9][CH3:8])=[O:11])[NH:13][C:14]2([c:15]2[cH:16][cH:17][cH:18][cH:19][cH:20]2)[O:21][C:22]1=[O:23],water,298.15,26.270147639501296,-6.2546273365982925
4478,5111,[CH3:10][C:11](=[O:12])[C-:13]([N+:14]#[C:15][c:16]1[cH:17][cH:18][cH:19][cH:20][cH:21]1)[C:22]([CH3:23])=[O:24].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]1([CH3:3])[CH:4](/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9])[C:13]([C:11]([CH3:10])=[O:12])([C:22]([CH3:23])=[O:24])[N:14]=[C:15]1[c:16]1[cH:17][cH:18][cH:19][cH:20][cH:21]1,water,298.15,23.533598418368463,-15.564397560775545
35,41,[CH2-:8][O+:9]=[C:10]([C:11]#[N:12])[C:13]([CH3:14])=[O:15].[CH3:1][C:2]#[C:3][C:4](=[O:5])[O:6][CH3:7]>>[CH3:1][C:2]1=[C:3]([C:4](=[O:5])[O:6][CH3:7])[C:10]([C:11]#[N:12])([C:13]([CH3:14])=[O:15])[O:9][CH2:8]1,water,298.15,11.3613455186223,-62.66494318286347
